US07666888B2
4-{[3-(4-Chlorobenzyl)pyrrolidin-1-yl]carbonyl}-5-(2-chlorophenyl)isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 3-(4-chlorobenzyl)pyrrolidine oxalate (17.1 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (8.3 mg). Calcd for C21H18C12 N2O2: 400.0745, found 400.0750.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 3-(4-chlorobenzyl)pyrrolidine oxalate | 0.060 mmol, 17.1 mg | C(C(=O)O)(=O)O.ClC1=CC=C(CC2CNCC2)C=C1
product | 4-{[3-(4-Chlorobenzyl)pyrrolidin-1-yl]carbonyl}-5-(2-chlorophenyl)isoxazole | ClC1=CC=C(CC2CN(CC2)C(=O)C=2C=NOC2C2=C(C=CC=C2)Cl)C=C1 | C21H18Cl2N2O2
